US07199147B2
A solution of sodium nitrite (836 mg, 59.1 mmol) in water (2 ml) was added to a solution of methyl 4-amino-3-methylbenzoate (2.00 g, 12.1 mmol) in acetic acid (80 ml) at room temperature and stirred at room temperature for 5 hours. The reaction solution was concentrated and the resulting residue was diluted with chloroform and washed with a 5% aqueous sodium hydrogencarbonate solution and then a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=3/1) to obtain methyl 1H-indazole-5-carboxylate (645 mg, 30%).

reactant | sodium nitrite | 59.1 mmol, 836 mg | N(=O)[O-].[Na+]
reactant | methyl 4-amino-3-methylbenzoate | 12.1 mmol, 2.00 g | NC1=C(C=C(C(=O)OC)C=C1)C | C9H11NO2
solvent | water | 2 ml | O | H2O
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | methyl 1H-indazole-5-carboxylate | 645 mg, 30% | N1N=CC2=CC(=CC=C12)C(=O)OC | C9H8N2O2
